US08022073B2
To a mixture of 3.08 g of 2-bromo-4′-chloropropiophenone, 1.79 g of 3-thiopheneacetic acid, acetonitrile and 10 ml of DMF was added 1.53 g of triethylamine, and the mixture was stirred for 2 hours at room temperature. The resultant mixture was cooled to 0° C., and 4.60 g of 1,8-diazabicyclo[5.4.0]undec-7-ene was added dropwise into this, and the mixture was stirred for 3 hours at room temperature. Then, the reaction mixture was stirred for 11 hours at room temperature while blowing air into the reaction mixture. To the reaction mixture was added 200 ml of 1 mol/L hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and saturated brine sequentially, and dried over anhydrous magnesium sulfate, then, concentrated under reduced pressure to obtain 3.98 g of 4-(4-chlorophenyl)-5-hydroxy-5-methyl-3-(3-thienyl)-2(5H)-furanone.

reactant | 2-bromo-4′-chloropropiophenone | 3.08 g | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
reactant | 3-thiopheneacetic acid | 1.79 g | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.60 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1 mol/L, 200 ml | Cl | ClH
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.53 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(4-chlorophenyl)-5-hydroxy-5-methyl-3-(3-thienyl)-2(5H)-furanone | 3.98 g | ClC1=CC=C(C=C1)C1=C(C(OC1(C)O)=O)C1=CSC=C1 | C15H11ClO3S
